US05830902
2) (E)-3-[2-(Carbazol-2-yloxy)-1-fluoroethylidene]quinuclidine hydrochloride
After dissolving (E)-3-[2-(carbazol-2-yloxy)-1-fluoroethylidene]quinuclidine (95.5 g, 284 mmol) in ethanol (7.0 l) while heating under reflux, a hydrogen chloride ethanol solution (about 5M, 90 ml) was added to the resulting solution with ice-cooling, spending 3 minutes. After additional 0.5 hour of ice-cooling, the thus precipitated crystals were collected by filtration and dried to give the title compound (85.2 g, 228 mmol, 80%).

reactant | (E)-3-[2-(carbazol-2-yloxy)-1-fluoroethylidene]quinuclidine | 284 mmol, 95.5 g | C1=C(C=CC=2C3=CC=CC=C3NC12)OC/C(/F)=C/1\CN2CCC1CC2 | C21H21FN2O
reactant | hydrogen chloride ethanol | about 5M, 90 ml | C(C)O.Cl
solvent | ethanol | 7.0 l | C(C)O | C2H6O
product | (E)-3-[2-(Carbazol-2-yloxy)-1-fluoroethylidene]quinuclidine hydrochloride | 228 mmol, 85.2 g, 80% | Cl.C1=C(C=CC=2C3=CC=CC=C3NC12)OC/C(/F)=C/1\CN2CCC1CC2 | InChI=1S/C21H21FN2O.ClH/c22-19(18-12-24-9-7-14(18)8-10-24)13-25-15-5-6-17-16-3-1-2-4-20(16)23-21(17)11-15;/h1-6,11,14,23H,7-10,12-13H2;1H/b19-18-;
